US07381719B2
Add hexamethylenetetramine (7.10 g, 50.6 mmol) portion wise to a solution of 2,3,6-trifluorophenol (5.00 g, 33.7 mmol) in TFA (35 ml) at ambient temperature and reflux for 15 hours. After cooling, treat the reaction mixture with water (60 ml), followed by 50% aq. H2SO4 (30 ml), and stir at ambient temperature for 30 minutes. Extract with EtOAc (2×) and wash with 1N aq. HCl (3×) and water. Extract the organic with 2N aq. NaOH (2×) and acidify the alkaline extract with conc. HCl while cooling in an ice/water bath. Collect the resulting solid via filtration and dry to give 2,3,5-trifluoro-4-hydroxy-benzaldehyde (2.97 g) as an off-white solid.

reactant | hexamethylenetetramine | 50.6 mmol, 7.10 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2,3,6-trifluorophenol | 33.7 mmol, 5.00 g | FC1=C(C(=CC=C1F)F)O | C6H3F3O
reactant | water | 60 ml | O | H2O
reactant | H2SO4 | 30 ml | OS(=O)(=O)O | H2O4S
solvent | TFA | 35 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2,3,5-trifluoro-4-hydroxy-benzaldehyde | 2.97 g | FC1=C(C=O)C=C(C(=C1F)O)F | C7H3F3O2
